US08703768B2
6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid [4-(3-methoxy-pyrrolidine-1-carbonyl)-pyridin-3-yl]-amide
According to the general method described in step 3 of example 53, reaction of 3-methoxy-pyrrolidine with 3-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-isonicotinic acid provided the title compound (18%) as off-white powder.

reactant | 3-methoxy-pyrrolidine | COC1CNCC1 | C5H11NO
reactant | 3-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-isonicotinic acid | C1(CC1)C1=CC=C(C(=N1)C(=O)NC1=C(C(=O)O)C=CN=C1)NC=1C=NC=NC1 | C19H16N6O3
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid [4-(3-methoxy-pyrrolidine-1-carbonyl)-pyridin-3-yl]-amide | 18% | COC1CN(CC1)C(=O)C1=C(C=NC=C1)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1 | C24H25N7O3
